US04714774
A mixture of 4-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-3-bromobenzoic acid (2.0 g), pyridine (10 ml) and propionic anhydride (10 ml) was heated at 100° to 110° C. for about 30 hours, then the solvent was evaporated off. The residue was dissolved in chloroform, which was washed with dilute hydrochloric acid, then with water. The solution was dried (sodium sulfate), which was then chromatographed on a column of silica-gel. The elution was conducted with chloroform-ethylacetate ester (5:1). The eluate was evaporated and the residue was recrystallized from hexane to give 1.77 g of 4-[3-(4-acetyl-3-propionyloxy-2-propylphenoxy)propoxy]-3-bromobenzoic acid, m.p. 136°-137° C.

reactant | 4-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-3-bromobenzoic acid | 2.0 g | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C=C(C(=O)O)C=C2)Br)C=C1)CCC)O | C21H23BrO6
reactant | propionic anhydride | 10 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-[3-(4-acetyl-3-propionyloxy-2-propylphenoxy)propoxy]-3-bromobenzoic acid | 1.77 g | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C=C(C(=O)O)C=C2)Br)C=C1)CCC)OC(CC)=O | C24H27BrO7
